US04945146
(2a) Synthesis of N-(2-hydroxypropyl)methacrylamide
3.75 g of 1-amino-2-propanol (0.05 mol) were placed in a three-necked flask, equipped with dropping funnel and gas inlet and gas outlet pipe, together with 30 ml of acetonitrile (anhydrous) and 13.79 g of K2CO3 (0.1 mol), and cooled to 0° C. in an ice bath. 6.18 g of methacryl chloride (0.06 mol), dissolved in 30 ml of acetonitrile, were added dropwise over 30 minutes with constant stirring and gentle passage of nitrogen. After stirring for a further 60 minutes with ice cooling, the mixture was allowed to warm to room temperature and was stirred for a further 30 minutes. The batch was filtered through a glass frit and the precipitate was discarded. The filtrate was concentrated in a rotary evaporator until a viscous oil was produced. This was dissolved in 30 ml of methanol and separated from any precipitate which appeared. The filtrate was again concentrated in a rotary evaporator and the residual amounts of the solvent were removed in a high vacuum. The yield was 6.66 g.

reactant | 1-amino-2-propanol | 0.05 mol, 3.75 g | NCC(C)O | C3H9NO
reactant | K2CO3 | 0.1 mol, 13.79 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methacryl chloride | 0.06 mol, 6.18 g | CC(=C)C(=O)Cl | C4H5ClO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | methanol | 30 ml | CO | CH4O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-(2-hydroxypropyl)methacrylamide | OC(CNC(C(=C)C)=O)C | C7H13NO2
